US05580866
A solution of ethanesulphonyl chloride (1.28 g) in dichloromethane (10 ml) was added dropwise at room temperature to a stirred solution of 6-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine (1.99 g, prepared in a similar manner to its hydrochloride, Example 1 above) and triethylamine (1.01 g) in dichloromethane (50 ml). The reaction mixture was stirred at room temperature for one hour, washed with water, dried and the solvent was removed by evaporation. Purification of the residue by flash chromatography using dichloromethane as eluent gave 4-ethylsulphonyl-6-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine, which was recrystallised from ethyl acetate/hexane. Yield 2.53 g (m.p. 126°-128° C.).

reactant | ethanesulphonyl chloride | 1.28 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 6-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine | ClC1=CC=CC2=C1CNCCS2 | C9H10ClNS
reactant | hydrochloride | Cl | ClH
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-ethylsulphonyl-6-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine | C(C)S(=O)(=O)N1CCSC2=C(C1)C(=CC=C2)Cl | C11H14ClNO2S2
